US07173040B2
n BuLi (1.6M in hexane) (4.4 ml, 0.0071 mol) was added dropwise at −70° C. to a solution of 1-methyl-1H-imidazole (0.0071 mol) in THF (8 ml) under N2 flow. The mixture was stirred for 15 minutes. ClSiEt3 (0.0073 mol) was added dropwise at −70° C. The mixture was stirred for 15 minutes. BuLi (1.6M in hexane) (3.9 ml, 0.0062 mol) was added dropwise at −70° C. The mixture was stirred at −70° C. for 15 minutes. A solution of 4-(3-chlorophenyl)-1-methyl-6-(4-nitrobenzoyl)-2(1H)-quinolinone (described in Example A3d) (0.0040 mol) in THF (15 ml) was added. The mixture was stirred at −70° C. for 15 minutes, poured out into H2O and extracted with EtOAc. The organic layer was separated, dried (MgSO4), filtered and the solvent was evaporated. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2/CH3OH/NH4OH 95/5/0.2; 15–40 μm). The pure fractions were collected and the solvent was evaporated. The residue was crystallized from diethyl ether. The precipitate was filtered off and dried, yielding 0.54 g (27%) of (±)-4-(3-chlorophenyl)-6-[hydroxy(1-methyl-1H-imidazol-5-yl)(4-nitrophenyl)methyl]-1-methyl-2(1H)-quinolinone, mp. 230° C.

reactant | BuLi | 0.0071 mol, 1.6M, 4.4 ml | [Li]CCCC
reactant | 1-methyl-1H-imidazole | 0.0071 mol | CN1C=NC=C1 | C4H6N2
reactant | ClSiEt3 | 0.0073 mol | Cl[Si](CC)(CC)CC | C6H15ClSi
reactant | BuLi | 0.0062 mol, 1.6M, 3.9 ml | [Li]CCCC
reactant | 4-(3-chlorophenyl)-1-methyl-6-(4-nitrobenzoyl)-2(1H)-quinolinone | 0.0040 mol | ClC=1C=C(C=CC1)C1=CC(N(C2=CC=C(C=C12)C(C1=CC=C(C=C1)[N+](=O)[O-])=O)C)=O | C23H15ClN2O4
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
product | (±)-4-(3-chlorophenyl)-6-[hydroxy(1-methyl-1H-imidazol-5-yl)(4-nitrophenyl)methyl]-1-methyl-2(1H)-quinolinone | 0.54 g, 27% | ClC=1C=C(C=CC1)C1=CC(N(C2=CC=C(C=C12)C(C1=CC=C(C=C1)[N+](=O)[O-])(C1=CN=CN1C)O)C)=O | C27H21ClN4O4
